US07361663B2
C. Pyrrolidin-2-ylidene-acetic acid methyl ester
To a flask containing NaOCH3 (1.21 g, 21.3 mmol) and dry MeOH (50 mL) under nitrogen is added 2,2-dimethyl-5-pyrrolidin-2-ylidene-[1,3]dioxane-4,6-dione (4.5 g, 21.3 mmol) and the contents are refluxed overnight. The reaction is concentrated and the residue is diluted with H20 (50 mL). 1 N HCl is added to obtain a pH of 6 and the mixture is extracted with CHCl3 (3×30 mL). The organic fractions are combined, dried over MgSO4 and concentrated. The crude product is purified by flash chromatography (50% EtOAc/hexanes) to give the title cormpouiid as a white solid (2.57 g, 18.2 mmol). 1H NMR (CDCl3, 300 MHz) 4.49(br. s, 1H), 3.63(s, 3H), 3.62-3.46(m, 2H), 1.75-1.50(m, 2H), 2.11-1.90(m, 2H).

reactant | NaOCH3 | 21.3 mmol, 1.21 g | O([Na])C
reactant | 2,2-dimethyl-5-pyrrolidin-2-ylidene-[1,3]dioxane-4,6-dione | 21.3 mmol, 4.5 g | CC1(OC(C(C(O1)=O)=C1NCCC1)=O)C | C10H13NO4
solvent | MeOH | 50 mL | CO | CH4O
product | Pyrrolidin-2-ylidene-acetic acid methyl ester | 18.2 mmol, 2.57 g | COC(C=C1NCCC1)=O | C7H11NO2
